US05597826
7-Amino-1-(1-t-butoxycarbonyl-pyrrolidin-2-(R)-ylmethyl)-naphthalene
A mixture of 7-dibenzylamino-1-(1-t-butoxycarbonyl-pyrrolidin-2-(R)-ylmethyl)-naphthalene (0.68 g, 1.34 mmol) and 20% palladium hydroxide on carbon (0.25 g) in ethanol (20 mL) and acetic acid (20 mL) was hydrogenated at 50 psi for 8 hours. Additional 20% palladium hydroxide on carbon (0.25 g) was added and hydrogenation was continued overnight. The catalyst (0.3 g) was added a third time and hydrogenation was continued 24 hours more. The reaction was filtered through celite and the pad was washed with ethanol. The filtrate was concentrated and the residue was taken up in ether. This organic phase was extracted with saturated aqueous sodium bicarbonate, water and brine, then it was dried and concentrated to give 0.368 g (84%) of the title compound as a tan foam. A sample recrystallized from ether/hexane as a light tan solid had mp 157°-158.5° C. Analysis calculated for C20H26N2O2 : C, 73.59; H, 8.03; N, 8.58. Found: C, 73.47; H, 7.93; N, 8.37.

reactant | 7-dibenzylamino-1-(1-t-butoxycarbonyl-pyrrolidin-2-(R)-ylmethyl)-naphthalene | 1.34 mmol, 0.68 g | C(C1=CC=CC=C1)N(C1=CC=C2C=CC=C(C2=C1)C[C@@H]1N(CCC1)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C34H38N2O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | palladium hydroxide on carbon | 0.25 g | [OH-].[OH-].[Pd+2]
catalyst | palladium hydroxide on carbon | 0.25 g | [OH-].[OH-].[Pd+2]
product | 7-Amino-1-(1-t-butoxycarbonyl-pyrrolidin-2-(R)-ylmethyl)-naphthalene | 0.368 g, 84% | NC1=CC=C2C=CC=C(C2=C1)C[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C20H26N2O2
